US08247557B2
2-Aminobiphenyl a (21.9289 g, 130 mmol) was dissolved in Ac2O (30 mL, 318 mmol) and stirred 10 minutes. An additional portion of Ac2O (10 mL, 106 mmol) was added then stirred for 10 more minutes. The sample was poured onto ice. The resulting solid was vacuum filtered and washed with H2O to give N-acetyl-2-aminobiphenyl b (26.955 g, 128 mmol, 98%).

reactant | 2-Aminobiphenyl | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | Ac2O | 318 mmol, 30 mL | CC(=O)OC(=O)C | C4H6O3
reactant | Ac2O | 106 mmol, 10 mL | CC(=O)OC(=O)C | C4H6O3
product | N-acetyl-2-aminobiphenyl | C(C)(=O)NC1=C(C=CC=C1)C1=CC=CC=C1 | C14H13NO
